US04613609
1-Heptyl-3-[4-(4-methoxyphenyl)butyl]-2,4,5-trimethylimidazolium bromide
Add 3.23 g (0.0133 mole) of 1-(4-bromobutyl)-4-methoxybenzene to 2.77 g (0.0133 mole) of 1-heptyl-2,4,5-trimethyl-1H-imidazole and heat at 125° C. for two hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (methanol: 1M sodium chloride, 95:5). At the completion of the reaction, the cooled reaction mixture in 100 ml water and then wash with 100 ml cyclohexane. Extract aqueous layer with 150 ml methylenechloride and evaporate to provide the title compound.

reactant | 1-(4-bromobutyl)-4-methoxybenzene | 0.0133 mole, 3.23 g | BrCCCCC1=CC=C(C=C1)OC | C11H15BrO
reactant | 1-heptyl-2,4,5-trimethyl-1H-imidazole | 0.0133 mole, 2.77 g | C(CCCCCC)N1C(=NC(=C1C)C)C | C13H24N2
solvent | water | 100 ml | O | H2O
product | 1-Heptyl-3-[4-(4-methoxyphenyl)butyl]-2,4,5-trimethylimidazolium bromide | [Br-].C(CCCCCC)[N+]1=C(N(C(=C1C)C)CCCCC1=CC=C(C=C1)OC)C | InChI=1S/C24H39N2O.BrH/c1-6-7-8-9-11-18-25-20(2)21(3)26(22(25)4)19-12-10-13-23-14-16-24(27-5)17-15-23;/h14-17H,6-13,18-19H2,1-5H3;1H/q+1;/p-1
